US03937837
Sodium 4-oxo-4H-1-benzopyran-3-carbohydroxamate.
A solution of 8.34 g (0.12 mol) of hydroxylamine hydrochloride in 125 ml of water was mixed with 100 ml of methylenechloride. Solid sodium carbonate (50 g) was added with cooling. With stirring, a solution of 16.5 g (0.079 mol) of chromone-3-carbonylchloride in 250 ml of methylene chloride was added over a period of 5 minutes, keeping the temp. at 15° with ice bath cooling. After 15 minutes reaction time the thick mixture was filtered and washed with 200 ml of ice-water. The damp filter cake was recrystallized from 100 ml of water, wt 1.5 g (8.4%); mp > 300°.

reactant | hydroxylamine hydrochloride | 0.12 mol, 8.34 g | Cl.NO
reactant | sodium carbonate | 50 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chromone-3-carbonylchloride | 0.079 mol, 16.5 g | O1C=C(C(C2=CC=CC=C12)=O)C(=O)Cl | C10H5ClO3
solvent | water | 125 ml | O | H2O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Sodium 4-oxo-4H-1-benzopyran-3-carbohydroxamate | O=C1C(=COC2=C1C=CC=C2)C(=O)N[O-].[Na+] | InChI=1S/C10H6NO4.Na/c12-9-6-3-1-2-4-8(6)15-5-7(9)10(13)11-14;/h1-5H,(H-,11,13,14);/q-1;+1
